US04405552
EXAMPLE 59: 1-(2,6-DICHLOROBENZOYL)-3-(5-METHYL-6-PHENYL-3-PYRIDYL)UREA
5-Methyl-6-phenyl-3-pyridylamine (0.4 gram) in 20 ml of acetonitrile was added to 2,6-dichlorobenzoyl isocyanate (0.5 gram) under nitrogen and at room temperature. After about 10-20 minutes a precipitate formed. The reaction mixture was then stirred for about 4-5 hours and the product was filtered and washed with acetonitrile, yield, 580 mg, m.p. 202°-205° C. A small portion of the product was recrystallized from ethanol, m.p. 204°-209° C.

reactant | 5-Methyl-6-phenyl-3-pyridylamine | 0.4 gram | CC=1C=C(C=NC1C1=CC=CC=C1)N | C12H12N2
reactant | 2,6-dichlorobenzoyl isocyanate | 0.5 gram | ClC1=C(C(=O)N=C=O)C(=CC=C1)Cl | C8H3Cl2NO2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-(2,6-DICHLOROBENZOYL)-3-(5-METHYL-6-PHENYL-3-PYRIDYL)UREA | ClC1=C(C(=O)NC(=O)NC=2C=NC(=C(C2)C)C2=CC=CC=C2)C(=CC=C1)Cl | C20H15Cl2N3O2
